US08022062B2
5-tert-Butoxycarbonylaminomethyl-2-(1-hydroxy-3,3-dimethyl-butyl)-pyridine:
Add slowly butyllithium (1.088 mL, 1.741 mmol, 1.6M solution in hexane) to a solution of 2-bromo-5-tert-butoxycarbonylaminomethyl-pyridine (200 mg, 0.696 mmol) in anhydrous THF (10 mL) at −78° C. Stir the mixture at this temperature for 35 min. Add 3,3-dimethylbutyraldehyde (0.219 mL, 1.741 mmol) and stir the mixture at −78° C. for 3 h. Quench the reaction mixture at −78° C. with brine. Extract the aqueous phase with EtOAc (3×15 mL). Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Purify The crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (3:2) to afford the desired intermediate as a colorless oil (118 mg, 55%). MS (ES+) m/z: 309 (M+H)+.

reactant | butyllithium | 1.741 mmol, 1.6M, 1.088 mL | C(CCC)[Li]
reactant | 2-bromo-5-tert-butoxycarbonylaminomethyl-pyridine | 0.696 mmol, 200 mg | BrC1=NC=C(C=C1)CNC(=O)OC(C)(C)C | C11H15BrN2O2
reactant | 3,3-dimethylbutyraldehyde | 1.741 mmol, 0.219 mL | CC(CC=O)(C)C | C6H12O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-tert-Butoxycarbonylaminomethyl-2-(1-hydroxy-3,3-dimethyl-butyl)-pyridine | 118 mg, 55% | C(C)(C)(C)OC(=O)NCC=1C=CC(=NC1)C(CC(C)(C)C)O | C17H28N2O3
